US05386045
Ethylene glycol di-n-decanoate was prepared as described for ethylene glycol di-n-hexanoate (except that heating was conducted at 140°-150° C.) from decanoyl chloride (457 ml, 2.20 mol), anhydrous ethylene glycol (61 ml, 1.09 mol) and imidazole (153.5 g, 2.25 mol). Also, larger amounts of diethyl ether were required in the work-up to keep the crude diester dissolved since it is a solid. Obtained 352.4 g (87.0% crude yield) of light yellow solid, mp 37°-39° C. This material was used without further purification.

reactant | ethylene glycol di-n-hexanoate | C(CCCCC)(=O)OCCOC(CCCCC)=O | C14H26O4
reactant | decanoyl chloride | 2.20 mol, 457 ml | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | ethylene glycol | 1.09 mol, 61 ml | C(CO)O | C2H6O2
reactant | imidazole | 2.25 mol, 153.5 g | N1C=NC=C1 | C3H4N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | Ethylene glycol di-n-decanoate | C(CCCCCCCCC)(=O)OCCOC(CCCCCCCCC)=O | C22H42O4
